US06150415
To 0.262 g (3.00 mmol) of pentylamine in 20 mL of hexane is added 0.53 mL (0.47 g, 3.0 mmol) of octylisocyanate with stirring to eventually produce a white crystalline solid. After standing overnight the mixture is cooled, the solid product collected, and washed with cold hexane. On air drying there is obtained 0.705 g (2.91 mmol, 97%) of 1-octyl-3-pentylurea as very fine white needles, mp 65.0-65.5° C. The material displays a 13C-NMR and a mass spectrum consistent with the assigned structure. 13C-NMR (CDCl3): δ 159.0 (C=O), 40.47 and 40.45 (C-1 and C-1'), 31.8 (C-6 and C-3'), 30.4 (C-2),30.1 (C-2'), 29.3 (C-4), 29.2 (C-5), 27.0 (C-3), 22.5 (C-7), 22.4 (C-4'), 13.9 (C-8 and C-5'); important infrared absorption bands (KBr disc) are present at 3334 (s, N--H), 1617 (vs, C=O), and 1579 (vs, amide II) cm-1.

reactant | pentylamine | 3.00 mmol, 0.262 g | C(CCCC)N | C5H13N
reactant | octylisocyanate | 3.0 mmol, 0.53 mL, 0.47 g | C(CCCCCCC)N=C=O | C9H17NO
solvent | hexane | 20 mL | CCCCCC | C6H14
product | 1-octyl-3-pentylurea | 2.91 mmol, 0.705 g, 97% | C(CCCCCCC)NC(=O)NCCCCC | C14H30N2O
